US04800211
3-Hydroxy-5-chloro-N-[(3-chlorophenyl)methyl]benzo[b]thiophene-2-carboxamid
To a solution of methyl 5-chloro-2-mercaptobenzoate (1.02 g; 0.005M) in 20 ml of methanol is added solid sodium methoxide (0.81 g; 0.015M; 3 eqv.) followed by N-[(3-chlorophenyl)methyl]chloroacetamide (1.10 g; 0.005M) and the mixture is refluxed under a nitrogen atmosphere for 30 minutes. The mixture is cooled to room temperature and added to a solution of 1.25 ml of glacial acetic acid in 20 ml of water and cooled to 0° C. The white solid is collected, washed with 50% methanol-water and air dried to give 1.60 g (91% yield) of the title compound; m.p. 184°-186° C.

reactant | methyl 5-chloro-2-mercaptobenzoate | 0.005M, 1.02 g | ClC=1C=CC(=C(C(=O)OC)C1)S | C8H7ClO2S
reactant | sodium methoxide | 0.015M, 0.81 g, 3 eqv. | C[O-].[Na+]
reactant | N-[(3-chlorophenyl)methyl]chloroacetamide | 0.005M, 1.10 g | ClC=1C=C(C=CC1)CNC(CCl)=O | C9H9Cl2NO
reactant | acetic acid | 1.25 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 3-Hydroxy-5-chloro-N-[(3-chlorophenyl)methyl]benzo[b]thiophene-2-carboxamid | 1.60 g, 91% yield | OC=1C2=C(SC1C(=O)NCC1=CC(=CC=C1)Cl)C=CC(=C2)Cl | C16H11Cl2NO2S
